US09085576B2
Synthesis of 3-((1S,5R,6S)-3-Amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluoro-N—((S)-1-methoxypropan-2-yl)benzamide
A flask was charged with 3-((1S,5R,6S)-3-benzamido-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluoro-N—((S)-1-methoxypropan-2-yl)benzamide (0.3780 g, 0.795 mmol), 1,8-diazabicyclo-[5.4.0]undec-7-ene (0.143 ml, 0.954 mmol) and MeOH (7.95 ml). The reaction mixture was heated to 65° C. for 4 hours. The crude product was adsorbed onto a plug of silica gel and purified by flash chromatography, eluting with a gradient of 10% to 100% EtOAc:EtOH (75:25) in hexane, to provide the title compound (0.0563 g, 0.152 mmol, 19.07% yield).

reactant | 3-((1S,5R,6S)-3-benzamido-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluoro-N—((S)-1-methoxypropan-2-yl)benzamide | 0.795 mmol, 0.3780 g | C(C1=CC=CC=C1)(=O)NC=1O[C@H]2C[C@H]2[C@](N1)(C(F)F)C=1C=C(C(=O)N[C@H](COC)C)C=CC1F | C24H24F3N3O4
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 0.954 mmol, 0.143 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | MeOH | 7.95 ml | CO | CH4O
product | 3-((1S,5R,6S)-3-Amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluoro-N—((S)-1-methoxypropan-2-yl)benzamide | 0.152 mmol, 0.0563 g, 19.07% yield | NC=1O[C@H]2C[C@H]2[C@](N1)(C(F)F)C=1C=C(C(=O)N[C@H](COC)C)C=CC1F | C17H20F3N3O3
